* Spice netlister for gnetlist
.lib '/home/adept/Desktop/caravel_mpw7/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice' tt
.include '/home/adept/Desktop/caravel_mpw7/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice'
*
.param vd=1.8V
*
* AND subcircuit 
.subckt and A B X VGND VPWR
* 4-input AND gate from 3 2-input AND gates 
Xand1 A1 B1 VGND VGND VPWR VPWR out_and1 sky130_fd_sc_hd__and2_1
Xand2 A2 B2 VGND VGND VPWR VPWR out_and2 sky130_fd_sc_hd__and2_1
Xand3 A3 B3 VGND VGND VPWR VPWR out_and3 sky130_fd_sc_hd__and2_1
Xand4 A4 B4 VGND VGND VPWR VPWR out_and4 sky130_fd_sc_hd__and2_1
.ends
*
* AND gate Instance
Xand A B X VGND VPWR and
*
VVDD VDD 0 vd
Vgnd VGND 0 0
Vdd VPWR VGND vd
* A(1,2,3,4)= 1011
* B(1,2,3,4)= 0011
VA1 A1 0 vd
VA2 A2 0 0
VA3 A3 0 vd
VA4 A4 0 vd
VB1 B1 0 0
VB2 B2 0 0
VB3 B3 0 vd
VB4 B4 0 vd
*
.tran 1ps 10ns
*
.control 
run
plot v(A1) v(A2) v(A3) v(A4) ylimit -1 3
plot v(B1) v(B2) v(B3) v(B4) ylimit -1 3
plot v(Xand.out_and1) ylimit -1 3 
plot v(Xand.out_and2) ylimit -1 3 
plot v(Xand.out_and3) ylimit -1 3 
plot v(Xand.out_and4) ylimit -1 3 
.endc
*
.END
